### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/Cones): add Co(co)neMorphism.map_w

### PR DESCRIPTION
**Pull request by yonggyuchoimath**
This PR introduces `ConeMorphism.map_w` and `CoconeMorphism.map_w`, which assert that functors preserve the commutativity of (co)cone morphisms.

Thanks to @chrisflav for the review and suggestions on the earlier version of this PR.

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Cones.lean [hunk 1]
```diff
@@ -400,6 +400,17 @@ def whiskeringEquivalence (e : K ≌ J) : Cone F ≌ Cone (e.functor ⋙ F) wher
 def equivalenceOfReindexing {G : K ⥤ C} (e : K ≌ J) (α : e.functor ⋙ F ≅ G) : Cone F ≌ Cone G :=
   (whiskeringEquivalence e).trans (postcomposeEquivalence α)
 
+
+/-- Given a cone isomorphism, produce an isomorphism of the object parts. -/
+@[simps!]
+def IsoPt {c c' : Cone F} (e : c ≅ c') : c.pt ≅ c'.pt where
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Limits/Cones.lean]: This is `(Cones.forget F).mapIso e`. Could you please check if your lemmas below can be proven by `simp` if you replace `IsoPt` accordingly?

Comment (yonggyuchoimath) [reply Mathlib/CategoryTheory/Limits/Cones.lean]: This works:
```
/-- Given a cone isomorphism, produce an isomorphism of the object parts. -/
@[simps!]
def IsoPt {c c' : Cone F} (e : c ≅ c') : c.pt ≅ c'.pt :=
  (Cones.forget F).mapIso e

/-- `Cones.IsoPt` is compatible with `π`. -/
lemma isoPt_π {c c' : Cone F} (e : c ≅ c') (j : J) : (IsoPt e).hom ≫ c'.π.app j = c.π.app j := by
  simp -- or `simp only [IsoPt_hom, ConeMorphism.w]`

/-- `mapCone` is compatible with `Cones.IsoPt`. -/
lemma mapCone_π_isoPt {c c' : Cone F} (e : c ≅ c') (j : J) :
    (H.mapIso (Cones.IsoPt e)).hom ≫ (H.mapCone c').π.app j = (H.mapCone c).π.app j := by
  simp [← map_comp]
```

Comment (TwoFX) [inline Mathlib/CategoryTheory/Limits/Cones.lean]: How about calling this `CategoryTheory.Iso.conePt`? Then,given `e : c ≅ c'`, one could write `e.conePt` for the corresponding `c.pt ≅ c'.pt`.

Comment (yonggyuchoimath) [reply Mathlib/CategoryTheory/Limits/Cones.lean]: I've removed `isoPt_π`, and changed `IsoPt` to `CategoryTheory.Iso.conePt` as in the comment below.

Comment (yonggyuchoimath) [reply Mathlib/CategoryTheory/Limits/Cones.lean]: That sounds great. I've reflected this in the recent commit with the comment above.

**Comment by yonggyuchoimath** [comment]
-awaiting-author

**Comment by joelriou** [comment]
I doubt we actually need this definition as it is `(Cones.forget F).mapIso e`. The lemmas about `mapCo(co)ne` could be useful, but it seems to me it would be better to phrase them for morphisms of cones, not isomorphisms.

**Comment by yonggyuchoimath** [comment]
I agree that we don't actually need it. I've removed the definition and rephrased the `mapCone` lemmas for maps of cones instead of isomorphisms. Thanks!

-awaiting-author

File: Mathlib/CategoryTheory/Limits/Cones.lean [hunk 2]
```diff
@@ -832,6 +832,16 @@ def mapCoconeWhisker {E : K ⥤ J} {c : Cocone F} :
     mapCocone H (c.whisker E) ≅ (mapCocone H c).whisker E :=
   Cocones.ext (Iso.refl _)
 
+/-- `mapCone` is compatible with `Cones.forget`. -/
+lemma mapCone_π_forget {c c' : Cone F} (e : c ⟶ c') (j : J) :
+    H.map ((Cones.forget F).map e) ≫ (H.mapCone c').π.app j = (H.mapCone c).π.app j := by
+  simp [← map_comp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Cones.lean]: Could you replace both the LHS et RHS by the result of `dsimp`, and add the `reassoc (attr := simp)` attribute?

Comment (yonggyuchoimath) [reply Mathlib/CategoryTheory/Limits/Cones.lean]: I've simplified both sides with dsimp, added @[reassoc (attr := simp)], and updated the PR title and description accordingly.

**Comment by yonggyuchoimath** [comment]
I've simplified both sides with dsimp, added @[reassoc (attr := simp)], and updated the PR title and description accordingly.

-awaiting-author

File: Mathlib/CategoryTheory/Limits/Cones.lean [hunk 3]
```diff
@@ -832,6 +832,16 @@ def mapCoconeWhisker {E : K ⥤ J} {c : Cocone F} :
     mapCocone H (c.whisker E) ≅ (mapCocone H c).whisker E :=
   Cocones.ext (Iso.refl _)
 
+@[reassoc (attr := simp)]
+lemma map_coneMorphism {c c' : Cone F} (e : c ⟶ c') (j : J) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Cones.lean]: The better name could be `map_w` in the `ConeMorphism` namespace.

**Comment by yonggyuchoimath** [comment]
I relocated `map_co(co)neMorphism` to a position shortly after the definition of `Co(co)neMorphism` and renamed it to `Co(co)neMorphism.map_w`. Also, I changed the order of arguments so that the functor comes after the co(cone) morphism.

During the proof of `Cones.functoriality` at line 432 in the current commit, I encountered a nested error:
```
[simp] Diagnostics ▼
  [] used theorems (max: 247, num: 2): ▼
    [] ConeMorphism.map_w ↦ 247 
    [] map_comp ↦ 246 
  [] tried theorems (max: 249, num: 3): ▼
    [] Discrete.functor_map_id ↦ 249 ❌️ 
    [] map_comp ↦ 247, succeeded: 246 
    [] ConeMorphism.map_w ↦ 247, succeeded: 247 
use `set_option diagnostics.threshold <num>` to control threshold for reporting counters
```

The issue was resolved either by:
- changing `@[reassoc (attr := simp)]` to `@[reassoc]`
- modifying line 432 from `w := fun j => by simp [-ConeMorphism.w, ← f.w j] }` into `w := fun j => by rw [← Functor.map_comp, ConeMorphism.w] }`

Note that `Cocones.functoriality` doesn't exhibit this issue, as its proof already uses `w := by intros; rw [← Functor.map_comp, CoconeMorphism.w] }`.

I'm leaving this as a build failure for now to get feedback on the preferred approach. Actually, I'm not even sure if this lemma is worth keeping at this moment.

-awaiting-author

**Comment by yonggyuchoimath** [comment]
Okay, I was stupid. I just changed the proofs of `Co(co)nes.functoriality` to use `Co(co)neMorphism.map_w`.

**Comment by joelriou** [comment]
Thanks!

bors merge
